US04036970
The chloro compound, i.e., 1-[2'-chloro-3'-(4"-chlorophenoxy)propyl]imidazole (2.1g.), is then heated under reflux with 1.5 g. p-chlorothiophenol and 1.4 g. of anhydrous potassium carbonate in 50 ml. of acetone. After stirring for 12 hours the solvent is removed and water is added to the residue. The resultant aqueous phase is then extracted with ether and the ether extracts washed with water, dried over magnesium sulfate and acidified with oxalic acid. The product which precipitates is filtered off and recrystallized from ethyl acetate to yield 1-[3'-(4"-chlorophenoxy)-2'-(4"-chlorophenylthio)propyl]imidazole oxalate, m.p. 81°-85.5° C.

reactant | 1-[2'-chloro-3'-(4"-chlorophenoxy)propyl]imidazole | 2.1g | ClC(CN1C=NC=C1)COC1=CC=C(C=C1)Cl | C12H12Cl2N2O
reactant | p-chlorothiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | 1-[3'-(4"-chlorophenoxy)-2'-(4"-chlorophenylthio)propyl]imidazole oxalate | C(C(=O)O)(=O)O.ClC1=CC=C(OCC(CN2C=NC=C2)SC2=CC=C(C=C2)Cl)C=C1 | InChI=1S/C18H16Cl2N2OS.C2H2O4/c19-14-1-5-16(6-2-14)23-12-18(11-22-10-9-21-13-22)24-17-7-3-15(20)4-8-17;3-1(4)2(5)6/h1-10,13,18H,11-12H2;(H,3,4)(H,5,6)
